US06743794B2
1,3-cyclohexanedicarboxylic Acid
To a suspension of isophthalic acid (5.0 g, 30.1 mmol) in 45 ml of acetic acid was added a slurry of 0.1 g of platinum oxide in 5 ml of acetic acid. The resulting mixture was stirred under 50 psi of hydrogen at 25° C. for 16 hours. NMR analysis (DMSO-d6) at this time showed complete reduction of starting material. The reaction mixture was filtered through Celite and the filter cake was rinsed with methanol. The combined filtrate and washes were concentrated under reduced pressure, using heptane to azeotropically remove residual acetic acid. Trituration of the resultant semi-solid with heptane and filtration of the precipitate provided 4.92 g (95%) of the title compound as a white powder. mp: 163-165° C.

reactant | isophthalic acid | 30.1 mmol, 5.0 g | C(C1=CC(C(=O)O)=CC=C1)(=O)O | C8H6O4
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 0.1 g | [Pt]=O
product | 1,3-cyclohexanedicarboxylic Acid | 4.92 g, 95% | C1(CC(CCC1)C(=O)O)C(=O)O | C8H12O4
